US06534220B2
Preparation of 3-(Methylsulfonyl)propyl Methyl Carbonate
A 100 ml 3-neck round bottom flask, fitted with a magnetic stir bar, rubber septum and hose adapter, was flushed with dry nitrogen and was charged via syringe with 17.53 g (0.127 mol) 3-(methylsulfonyl)-1-propanol and 19 ml anhydrous pyridine. The resulting mixture was cooled in an ice-water bath. Methyl chloroformate (13.3 g; 0.141 mol) was added dropwise to the mixture via syringe over 45 minutes. The ice-water bath was then removed, and the mixture was allowed to stir at room temperature. After 3.5 hours, the resulting white opaque mixture was poured into 120 ml of ice cold 10% aqueous HCl in a separatory funnel, and the resulting solution was extracted four times with 50 ml aliquots of CH2Cl2. The resulting organic extracts were combined and dried over Na2SO4. Solvent removal under reduced pressure on a rotary evaporator left a clear pale yellow liquid, which solidified as it cooled. The resulting solid was purified by recrystallization from t-butyl methyl ether to give 17.6 g of white needles, m.p. 55-56.5° C., and a filtrate that was then concentrated to provide a second batch of crystals (1.9 g), m.p. =55-57° C., to yield a total of 19.5 g (78% yield) of 3-(methylsulfonyl) propyl methyl carbonate.

reactant | 3-(methylsulfonyl)-1-propanol | 0.127 mol, 17.53 g | CS(=O)(=O)CCCO | C4H10O3S
reactant | Methyl chloroformate | 0.141 mol, 13.3 g | ClC(=O)OC | C2H3ClO2
solvent | pyridine | 19 ml | N1=CC=CC=C1 | C5H5N
product | 3-(Methylsulfonyl)propyl Methyl Carbonate | 17.6 g | C(OCCCS(=O)(=O)C)(OC)=O | C6H12O5S
